US07820673B2
103a) tert-butyl 3-oxo-4-(4-piperidinyl)-1-piperazinecarboxylate
tert-Butyl 4-(1-benzyl-4-piperidinyl)-3-oxo-1-piperazinecarboxylate (PCT Japanese Translation Patent Publication No. 2002533451; 1.4 g) was dissolved in ethanol (30 ml), 10% palladium carbon (50% water content; 0.12 g) was added thereto, and mixed under hydrogen atmosphere at room temperature for 16 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to obtain the title compound as a green oil (0.95 g, quantitative).

reactant | tert-Butyl 4-(1-benzyl-4-piperidinyl)-3-oxo-1-piperazinecarboxylate | 1.4 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(CN(CC1)C(=O)OC(C)(C)C)=O | C21H31N3O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.12 g | [C].[Pd]
product | tert-butyl 3-oxo-4-(4-piperidinyl)-1-piperazinecarboxylate | 0.95 g | O=C1CN(CCN1C1CCNCC1)C(=O)OC(C)(C)C | C14H25N3O3
